US04039574
To a solution of 0.5 g. (1.47 mmol) of trans-2-(6-carboxyhexyl)-3-(1-hydroxyoctyl)cyclopentanone is added on etheral solution of diazomethane until a permanent yellow color remains. The solvent and excess diazomethane are removed un a stream of nitrogen. After removing traces of solvent at reduced pressure, 0.52 g. of trans-2-(6-carbomethoxyhexyl)-3-(1-hydroxyoctyl)cyclopentanone is obtained.

reactant | trans-2-(6-carboxyhexyl)-3-(1-hydroxyoctyl)cyclopentanone | 1.47 mmol | C(=O)(O)CCCCCC[C@@H]1C(CC[C@H]1C(CCCCCCC)O)=O | C20H36O4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | trans-2-(6-carbomethoxyhexyl)-3-(1-hydroxyoctyl)cyclopentanone | C(=O)(OC)CCCCCC[C@@H]1C(CC[C@H]1C(CCCCCCC)O)=O | C21H38O4
